US07897766B2
N-[(4s)-1-Azatricyclo[3.3.1.13,7]dec-4-yl]-2,3-dichlorobenzamide
Prepared from (4s)-1-azatricyclo[3.3.1.13,7]dec-4-ylamine and 2,3-dichlorobenzoic acid (Aldrich) according to method B; 1H NMR (500 MHz, methanol-d4) δ 1.91-1.99 (m, 6H), 2.07 (d, 1H), 2.26 (d, J=13 Hz, 2H), 2.35 (s, 2H), 3.44-3.52 (m, 2H), 3.77-3.89 (m, 1H), 4.43 (s, 1H), 7.36-7.42 (m, 2H), 7.63 (dd, J=6, 4 Hz, 1H); MS (APCI/NH3) m/z 325 (M+H)+.

reactant | (4s)-1-azatricyclo[3.3.1.13,7]dec-4-ylamine | N12CC3[C@@H](C(CC(C1)C3)C2)N | C9H16N2
reactant | 2,3-dichlorobenzoic acid | ClC1=C(C(=O)O)C=CC=C1Cl | C7H4Cl2O2
reactant | NH3 | N | H3N
product | N-[(4s)-1-Azatricyclo[3.3.1.13,7]dec-4-yl]-2,3-dichlorobenzamide | N12CC3[C@@H](C(CC(C1)C3)C2)NC(C2=C(C(=CC=C2)Cl)Cl)=O | C16H18Cl2N2O
